US08357688B2
To a mixed liquid of 520 mg of methyl 3-chloro-2-[(2-cyclopentyl-2-oxoethyl)amino]-7-methylquinoxaline-6-carboxylate and 11.3 mL of chloroform were added 4.00 mL of trifluoroacetic anhydride and 0.11 mL of trifluoroacetic acid, followed by heating and refluxing for 6 hours. Ethyl acetate and a saturated aqueous sodium hydrogen carbonate solution were added thereto, followed by extraction with ethyl acetate, the organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform/methanol) to obtain 388 mg of methyl 4-chloro-1-cyclopentyl-8-methylimidazo[1,2-a]quinoxaline-7-carboxylate as a pale yellow solid.

reactant | methyl 3-chloro-2-[(2-cyclopentyl-2-oxoethyl)amino]-7-methylquinoxaline-6-carboxylate | 520 mg | ClC=1C(=NC2=CC(=C(C=C2N1)C(=O)OC)C)NCC(=O)C1CCCC1 | C18H20ClN3O3
reactant | trifluoroacetic anhydride | 4.00 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | trifluoroacetic acid | 0.11 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | chloroform | 11.3 mL | C(Cl)(Cl)Cl | CHCl3
product | methyl 4-chloro-1-cyclopentyl-8-methylimidazo[1,2-a]quinoxaline-7-carboxylate | 388 mg | ClC=1C=2N(C3=CC(=C(C=C3N1)C(=O)OC)C)C(=CN2)C2CCCC2 | C18H18ClN3O2
